US06953793B2
B. 1-[1-{3-[4-(1H-Benzoimidazol-2-yl)-piperidin-1-yl]-2-hydroxy-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone.
A solution of 83 mg (0.41 mmol) of 2-piperidin-4-yl-1H-benzoimidazole was dissolved in 4 mL EtOH and treated with 100 mg (0.27 mmol) of 1-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone. The solution was heated to 60° C. overnight. The solvent was then removed by rotary evaporation and the crude product was purified by column chromatography (silica, 0-10% MeOH/EtOAc) to afford 55 mg (36%) of a white solid. MS (electrospray): exact mass calculated for C30H33F3N6O2, 566.26. m/z found, 567.3 [M+H]+. 1H NMR (CDCl3, 400 MHz, a mixture of amide rotamers):10.66 (br s, 0.5H), 10.57 (br s, 0.5H), 7.73 (bd, J=8.41 Hz, 1H), 7.72-7.63 (m, 3H), 7.60 (bd, J=8.41 Hz, 1H), 7.39-7.32 (m, 1H), 7.23-7.13 (m, 2H), 7.02 (br s, 1), 4.86 and 4.75 (A and B of AB quartet, J=15.85 Hz, 1.25H), 4.64 (br s, 1H), 4.21-4.06 (m, 2H), 4.06-3.81 (m, 2H), 3.80-3.63 (m, 1H), 3.80-3.69 (m, 1H), 3.00-2.68 (m, 5H), 2.44-2.36 (m, 2H), 2.39-2.23 (m, 2H), 2.19 (s, 1.6H), 2.15 (s, 1.4H), 2.13-2.00 (m, 4H), 2.00-1.80 (m, 2H).

reactant | 2-piperidin-4-yl-1H-benzoimidazole | 0.41 mmol, 83 mg | N1CCC(CC1)C1=NC2=C(N1)C=CC=C2 | C12H15N3
reactant | 1-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 0.27 mmol, 100 mg | O1C(C1)CN1N=C(C=2CN(CCC21)C(C)=O)C2=CC=C(C=C2)C(F)(F)F | C18H18F3N3O2
solvent | EtOH | 4 mL | CCO | C2H6O
product | 1-[1-{3-[4-(1H-Benzoimidazol-2-yl)-piperidin-1-yl]-2-hydroxy-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 55 mg, 36% | N1C(=NC2=C1C=CC=C2)C2CCN(CC2)CC(CN2N=C(C=1CN(CCC12)C(C)=O)C1=CC=C(C=C1)C(F)(F)F)O | C30H33F3N6O2
